US06613760B1
N-(3,4-Dichlorobenzyl)-2-ethoxycarbonylindole-4-carboxylic acid
A solution of sodium chlorite (9.70 g) and sodium dihydrogen orthophosphate (13.02 g) in water (50 ml) was added dropwise to a solution of ethyl 4-formyl-N-(3,4-dichlorobenzyl)indole-2-carboxylate (4.47 g) and 2-methylbut-2-ene (50 ml) in tert-butyl alcohol (100 ml) and the mixture stirred for 72 hours at ambient temperature, then concentrated in vacuo and the resulting precipitate was filtered and dried to give the product as an off-white solid (4.16 g. 89%); NMR δ(CD3SOCD3) 1.25 (t, 3H), 4.30 (q, 2H)) 5.85 (s, 2H), 6.85 (m, 1H), 7.35 (m, 1H), 7.40 (q, 1H), 7.50 (m, 1H), 7.80 (m, 3H); M/z (−) 390.1 (M−H+).

reactant | sodium chlorite | 9.70 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen orthophosphate | 13.02 g | P(=O)(O)(O)[O-].[Na+]
reactant | ethyl 4-formyl-N-(3,4-dichlorobenzyl)indole-2-carboxylate | 4.47 g | C(=O)C1=C2C=C(N(C2=CC=C1)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OCC | C19H15Cl2NO3
reactant | 2-methylbut-2-ene | 50 ml | CC(C)=CC | C5H10
solvent | water | 50 ml | O | H2O
solvent | tert-butyl alcohol | 100 ml | C(C)(C)(C)O | C4H10O
product | N-(3,4-Dichlorobenzyl)-2-ethoxycarbonylindole-4-carboxylic acid | 4.16 g, 89% | ClC=1C=C(CN2C(=CC=3C(=CC=CC23)C(=O)O)C(=O)OCC)C=CC1Cl | C19H15Cl2NO4
